US07569577B2
N-(3-chloro-2-fluorophenyl)-6-methoxy-7-{[(3S)-1-(methoxyacetyl)piperidin-3-yl]oxy}quinazolin-4-amine
HATU (0.24 g) was added to a solution of N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride (250 mg), diisopropylethylamine (0.37 ml) and methoxyacetic acid (0.054 g) in methylene chloride (9 ml) and the mixture was stirred at room temperature for 2.5 hours. Methylene chloride (20 ml) was added and the organic layer was washed with aqueous sodium hydroxide (2M, 30 ml) and water (30 ml). The resulting product was purified by flash column chromatography eluting with methanol (3%) and methylene chloride (97%) gave a foam. This was re-precipitated by stirring in diethyl ether (20 ml) to give the title product as a white solid (0.202 g); 1H NMR Spectrum: (DMSO d6 373K) 1.60 (m, 1H), 1.88 (m, 2H), 2.10 (m, 1H), 3.32 (s, 3H), 3.51 (m, 2H), 3.62 (m, 1H), 3.87 (m, 1H), 3.98 (s, 3H), 4.02 (d, J=14 Hz, 1H), 4.12 (d, J=14 Hz, 1H), 4.66 (m, 1H), 7.26 (m, 1H), 7.33 (s, 1H), 7.43 (m, 1H), 7.62 (m, 1H), 7.83 (s, 1H), 8.40 (s, 1H), 9.34 (br s, 1H); Mass Spectrum: (M+H)+ 475.

reactant | HATU | 0.24 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride | 250 mg | Cl.Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CNCCC1)F
reactant | diisopropylethylamine | 0.37 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxyacetic acid | 0.054 g | COCC(=O)O | C3H6O3
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-2-fluorophenyl)-6-methoxy-7-{[(3S)-1-(methoxyacetyl)piperidin-3-yl]oxy}quinazolin-4-amine | 0.202 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CN(CCC1)C(COC)=O)F | C23H24ClFN4O4
